### PR TITLE
[Merged by Bors] - feat(CategoryTheory): exact functors from the localization w.r.t. a Serre class

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #35966
- [x] depends on: #35612
- [x] depends on: #34495
- [x] depends on: #34496
- [x] depends on: #34498

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 1]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
   have := isNormalEpiCategory L P
   constructor
 
+lemma preservesFiniteLimits : PreservesFiniteLimits L := by
+  letI := abelian L P
+  have := (Functor.preservesFiniteLimits_tfae L).out 3 2
+  rw [this]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]: You just have to smile
```suggestion
  rw [((Functor.preservesFiniteLimits_tfae L).out 3 2:)]
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 2]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+  intro _ _ f
+  exact preservesKernel L P f
+
+lemma preservesFiniteColimits : PreservesFiniteColimits L := by
+  letI := abelian L P
+  have := (Functor.preservesFiniteColimits_tfae L).out 3 2
+  rw [this]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
  rw [((Functor.preservesFiniteColimits_tfae L).out 3 2:)]
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 3]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+  have := preservesFiniteLimits L P
+  refine ⟨fun _ ↦ ?_, fun _ ↦ comp_preservesFiniteLimits _ _⟩
+  have := (Localization.functor_additive_iff L P.isoModSerre G).2
+    ((L ⋙ G).additive_of_preserves_binary_products)
+  refine ((Functor.preservesFiniteLimits_tfae G).out 2 3).1 (fun _ _ f ↦ ?_)
+  obtain ⟨f', ⟨iso⟩⟩ :=
+    (Localization.essSurj_mapArrow L P.isoModSerre).mem_essImage (Arrow.mk f)
+  have : PreservesLimit (parallelPair (L.map f'.hom) 0) G :=
+    preservesLimit_of_preserves_limit_cone
+      ((KernelFork.isLimitMapConeEquiv _ _).1
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
      (KernelFork.isLimitMapConeEquiv _ _
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 4]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+        (isLimitOfPreserves L (kernelIsKernel f'.hom)))
+          ((KernelFork.isLimitMapConeEquiv _ G).2
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
          ((KernelFork.isLimitMapConeEquiv _ G).symm
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 5]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+            ((KernelFork.isLimitMapConeEquiv _ (L ⋙ G)).1
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
            (KernelFork.isLimitMapConeEquiv _ (L ⋙ G)
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 6]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+set_option backward.isDefEq.respectTransparency false in
+lemma preservesFiniteColimits_comp_iff :
+    PreservesFiniteColimits (L ⋙ G) ↔ PreservesFiniteColimits G := by
+  letI := abelian L P
+  have := preservesFiniteColimits L P
+  refine ⟨fun _ ↦ ?_, fun _ ↦ comp_preservesFiniteColimits _ _⟩
+  have := (Localization.functor_additive_iff L P.isoModSerre G).2 (by
+    have := preservesBinaryBiproducts_of_preservesBinaryCoproducts (L ⋙ G)
+    exact Functor.additive_of_preservesBinaryBiproducts _)
+  refine ((Functor.preservesFiniteColimits_tfae G).out 2 3).1 (fun _ _ f ↦ ?_)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
  refine ((Functor.preservesFiniteColimits_tfae G).out 2 3).mp (fun _ _ f ↦ ?_)
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 7]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+    (show parallelPair (L.map f'.hom) 0 ≅ parallelPair f 0 from
+      parallelPair.ext (Arrow.leftFunc.mapIso iso) (Arrow.rightFunc.mapIso iso))
+
+set_option backward.isDefEq.respectTransparency false in
+lemma preservesFiniteColimits_comp_iff :
+    PreservesFiniteColimits (L ⋙ G) ↔ PreservesFiniteColimits G := by
+  letI := abelian L P
+  have := preservesFiniteColimits L P
+  refine ⟨fun _ ↦ ?_, fun _ ↦ comp_preservesFiniteColimits _ _⟩
+  have := (Localization.functor_additive_iff L P.isoModSerre G).2 (by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
  have := (Localization.functor_additive_iff L P.isoModSerre G).mpr (by
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 8]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+  refine ((Functor.preservesFiniteColimits_tfae G).out 2 3).1 (fun _ _ f ↦ ?_)
+  obtain ⟨f', ⟨iso⟩⟩ :=
+    (Localization.essSurj_mapArrow L P.isoModSerre).mem_essImage (Arrow.mk f)
+  have : PreservesColimit (parallelPair (L.map f'.hom) 0) G :=
+    preservesColimit_of_preserves_colimit_cocone
+      ((CokernelCofork.isColimitMapCoconeEquiv _ _).1
+        (isColimitOfPreserves L (cokernelIsCokernel f'.hom)))
+          ((CokernelCofork.isColimitMapCoconeEquiv _ G).2
+            ((CokernelCofork.isColimitMapCoconeEquiv _ (L ⋙ G)).1
+              (isColimitOfPreserves (L ⋙ G) (cokernelIsCokernel f'.hom))))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
      (CokernelCofork.isColimitMapCoconeEquiv _ _
        (isColimitOfPreserves L (cokernelIsCokernel f'.hom)))
          ((CokernelCofork.isColimitMapCoconeEquiv _ G).symm
            (CokernelCofork.isColimitMapCoconeEquiv _ (L ⋙ G)
              (isColimitOfPreserves (L ⋙ G) (cokernelIsCokernel f'.hom))))
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 9]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+    ((whiskeringLeft L P E).obj G).obj = L ⋙ G.obj := rfl
+
+/-- When `L : C ⥤ D` is a localization functor with respect to a Serre class
+in the abelian category `C`, the functor `whiskeringLeft L P E: (D ⥤ₑ E) ⥤ C ⥤ₑ E`
+is fully faithful. -/
+noncomputable def fullyFaithfulWhiskeringLeft :
+    (whiskeringLeft L P E).FullyFaithful :=
+  Functor.FullyFaithful.ofCompFaithful (G := ObjectProperty.ι _)
+   ((exactFunctor D E).fullyFaithfulι.comp
+    (Localization.fullyFaithfulWhiskeringLeft L P.isoModSerre E))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
    ((exactFunctor D E).fullyFaithfulι.comp
      (Localization.fullyFaithfulWhiskeringLeft L P.isoModSerre E))
```

File: Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean [hunk 10]
```diff
@@ -439,6 +442,130 @@ def abelian : Abelian D := by
...
+
+set_option backward.isDefEq.respectTransparency false in
+lemma preservesFiniteLimits_comp_iff :
+    PreservesFiniteLimits (L ⋙ G) ↔ PreservesFiniteLimits G := by
+  letI := abelian L P
+  have := preservesFiniteLimits L P
+  refine ⟨fun _ ↦ ?_, fun _ ↦ comp_preservesFiniteLimits _ _⟩
+  have := (Localization.functor_additive_iff L P.isoModSerre G).2
+    ((L ⋙ G).additive_of_preserves_binary_products)
+  refine ((Functor.preservesFiniteLimits_tfae G).out 2 3).1 (fun _ _ f ↦ ?_)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/SerreClass/Localization.lean]:
```suggestion
  have := (Localization.functor_additive_iff L P.isoModSerre G).mpr
    (L ⋙ G).additive_of_preserves_binary_products
  refine ((Functor.preservesFiniteLimits_tfae G).out 2 3).mp (fun _ _ f ↦ ?_)
```

**Review by robin-carlier — COMMENTED** [review]
Mostly cosmetic comments. Rest LGTM
